US08242150B2
4-Fluoro-3-(2,2,2-trifluoroethoxy)benzaldehyde
Methyl 4-fluoro-3-hydroxybenzoate (10 g, 58.8 mmol), 2,2,2-trifluoroethyl trifluoromethanesulfonate (20.4 g, 88 mmol), and Cs2CO3 (51 g, 157 mmol) were dissolved in 200 ml of THF and stirred at 65° C. overnight. Cooled to room temperature and diluted with EtOAc and brine. Layers were separated and the aqueous layer was extracted twice with EtOAc. The organic extracts were combined, dried (Na2SO4), and concentrated to yield 14.82 g (58.8 mmol, 100%). A solution of hydroxybenzoate intermediate (14.82 g, 58.8 mmol) in 150 ml of THF was cooled to 0° C., treated with LiAlH4 (3.95 g, 104 mmol), and allowed to warm to room temperature over 1 hour. Reaction quenched sequentially with 4 ml of water, 4 ml of 1 N NaOH, and 12 ml of water and left to stir for thirty minutes. Reaction was filtered and the filtrate concentrated to a yellow oil (13.33 g, 59 mmol, 100%). A solution of DMSO (10.26 ml, 145 mmol) in 10 ml of dry CH2Cl2 was added dropwise to a solution of oxalyl chloride (33.3 ml, 66.6 mmol) in an additional 100 ml of dry CH2Cl2 and stirred at −78° C. for 20 minutes. A solution of alcohol intermediate (13.33 g, 59 mmol) in 50 ml dry CH2Cl2 was then added and the reaction was stirred at −78° C. for 30 minutes. The reaction was treated with triethylamine (30.8 ml, 221 mmol) and stirred at −78° C. for 30 minutes. The reaction was warmed to 0° C., stirred for 30 minutes, and then allowed to warm to room temperature. Diluted with 1 N HCl and CH2Cl2. The aqueous layer was separated and extracted once with CH2Cl2. The organic layers were combined and washed sequentially with sat'd NaHCO3, 10 vol % bleach in water, and brine. The organic layer was dried (Na2SO4) and concentrated to a yellow solid (12.37 g, 55.7 mmol, 94%).

reactant | Methyl 4-fluoro-3-hydroxybenzoate | 58.8 mmol, 10 g | FC1=C(C=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 88 mmol, 20.4 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | Cs2CO3 | 157 mmol, 51 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | hydroxybenzoate | 58.8 mmol, 14.82 g | OC1=C(C(=O)[O-])C=CC=C1
reactant | LiAlH4 | 104 mmol, 3.95 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | DMSO | 145 mmol, 10.26 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 66.6 mmol, 33.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 221 mmol, 30.8 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 1 N | Cl | ClH
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-Fluoro-3-(2,2,2-trifluoroethoxy)benzaldehyde | FC1=C(C=C(C=O)C=C1)OCC(F)(F)F | C9H6F4O2
